US09216980B2
Step 1: 6′-(Pyridazin-4-yl)-2-fluoro-5-(4-piperidin-1-ylmethylphenyl)-[3,4′]bipyridinyl-3′-ylamine
A mixture of 6′-bromo-2-fluoro-5-(4-piperidin-1-ylmethylphenyl)-[3,4]bipyridinyl-3′-ylamine (200 mg, 0.45 mmol), 4-(tributylstannyl)pyridazine (334 mg, 0.91 mmol) and lithium chloride (192 mg, 4.5 mmol) in 1,4-dioxane (5 mL) was degassed and flushed with nitrogen. Tetrakis(triphenylphosphine)-palladium(0) (39 mg, 0.034 mmol) was added and the reaction was heated at 110° C. for 24 h. The cooled reaction mixture was diluted with DCM (20 mL) and methanol (2 mL) and washed with water (15 mL). The organic phase was separated, dried over sodium sulfate, filtered and evaporated in vacuo to afford a residue that was purified by flash chromotagraphy (silica, 10 g column, Biotage, 0-10% methanol in DCM containing 0 1% ammonia) to afford a brown residue that was taken to the next step without further purification.

reactant | 6′-bromo-2-fluoro-5-(4-piperidin-1-ylmethylphenyl)-[3,4]bipyridinyl-3′-ylamine | 0.45 mmol, 200 mg | BrC1=CC(=C(C=N1)N)C=1C(=NC=C(C1)C1=CC=C(C=C1)CN1CCCCC1)F | C22H22BrFN4
reactant | 4-(tributylstannyl)pyridazine | 0.91 mmol, 334 mg | C(CCC)[Sn](C1=CN=NC=C1)(CCCC)CCCC
reactant | lithium chloride | 4.5 mmol, 192 mg | [Cl-].[Li+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 2 mL | CO | CH4O
catalyst | Tetrakis(triphenylphosphine)-palladium(0) | 0.034 mmol, 39 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6′-(Pyridazin-4-yl)-2-fluoro-5-(4-piperidin-1-ylmethylphenyl)-[3,4′]bipyridinyl-3′-ylamine | N1=NC=C(C=C1)C1=CC(=C(C=N1)N)C=1C(=NC=C(C1)C1=CC=C(C=C1)CN1CCCCC1)F | C26H25FN6
